US06977267B2
4-(4-Bromophenyl)-4-oxobutyric acid
AlCl3 (128.8 g, 0.97 mol) was added by portions within 20 min to a suspension of succinic anhydride (44.3 g, 0.44 mol) and bromobenzene (100 ml, 0.99 mol) in DCM (500 ml) while the reaction flask was cooled in a water bath. After 1 h30 min at RT, the reaction mixture was refluxed for 2 h. After cooling, the reaction medium was slowly poured into a mixture of ice (1.5 l) and concentrated HCl (100 ml). The precipitate was washed twice with water, with isopropanol, and finally with pentane. After drying 4-(4-bromophenyl)-4-oxobutyric acid was obtained as an off-white solid (86.4 g, mp=148° C.). 1H NMR (CDCl3): 7.85 (2H, d, J=8.5 Hz), 7.62 (2H, d, J=8.5 Hz), 3.28 (2H, t, J=6.5 Hz), 2.82 (2H, t, J=6.5 Hz).

reactant | AlCl3 | 0.97 mol, 128.8 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | succinic anhydride | 0.44 mol, 44.3 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | bromobenzene | 0.99 mol, 100 ml | BrC1=CC=CC=C1 | C6H5Br
reactant | HCl | 100 ml | Cl | ClH
solvent | DCM | 500 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-Bromophenyl)-4-oxobutyric acid | 86.4 g | BrC1=CC=C(C=C1)C(CCC(=O)O)=O | C10H9BrO3
